* source 1
R_R1         N14412 N14419  4000 TC=0,0 
C_C1         N14419 N14423  0.000001  TC=0,0 
R_R3         0 N14423  1000 TC=0,0 
V_V1         N14412 0 DC 0 AC 1 
