* source VE215-6
V_V1         N14434 0 24Vdc
R_R1         N14434 N14441  6 TC=0,0 
R_R2         N14434 N14441  6 TC=0,0 
R_R3         0 N14445  3 TC=0,0 
C_C1         0 N14445  0.4 IC=0 TC=0,0 
L_L1         N14441 N14445  2H IC=0 
